US09034900B2
Step 1: 6-methylsulfonylpyridin-3-ol
A mixture of 6-chloropyridin-3-ol (2.00 g, 15.44 mmol), MeSO2Na (2.36 g, 23.16 mmol), CuI (882.16 mg, 4.63 mmol), L-proline (533.28 mg, 4.63 mmol), and K2CO3 (640.19 mg, 4.63 mmol) in DMSO (20 mL) were charged into a microwave tube. The sealed tube was heated at 140° C. for 3 hrs under microwave. After cooling to room temperature, water (100 mL) was added. The mixture was extracted with EtOAc (100 mL×3). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography to give the title compound (1.2 g, 44.8%) as a yellow solid. 1H NMR (Methanol-d4, 400 MHz) δ 8.24 (d, J=2.4 Hz, 1H), 7.94 (d, J=8.4 Hz, 1H), 7.37 (dd, J1=8.8 Hz, J2=2.8 Hz, 1H), 3.15 (s, 3H).

reactant | 6-chloropyridin-3-ol | 15.44 mmol, 2.00 g | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | MeSO2Na | 23.16 mmol, 2.36 g | CS(=O)O[Na]
reactant | L-proline | 4.63 mmol, 533.28 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 4.63 mmol, 640.19 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | CuI | 4.63 mmol, 882.16 mg | [Cu]I
solvent | water | 100 mL | O | H2O
product | 6-methylsulfonylpyridin-3-ol | 1.2 g, 44.8% | CS(=O)(=O)C1=CC=C(C=N1)O | C6H7NO3S
